US06635763B2
(S)-(+)-(2-chloro-phenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetamide (II)
To the suspension of 1.8 g of (S)-(+)-(2-chloro-phenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl) acetamide (1S)-(+)-camphor-10-sulfonic acid salt in 100 mL water, 50 mL of sodium bicarbonate solution in water was added. After stirring the mixture, 150 mL ethyl acetate was added. The combined organic layers are distilled off to get title product. The amount of product obtained was 1 g (56%).

reactant | (S)-(+)-(2-chloro-phenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl) acetamide (1S)-(+)-camphor-10-sulfonic acid salt | 1.8 g | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.ClC2=C(C=CC=C2)[C@@H](C(=O)N)N2CC1=C(CC2)SC=C1
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
solvent | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
product | (S)-(+)-(2-chloro-phenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetamide | ClC1=C(C=CC=C1)[C@@H](C(=O)N)N1CC2=C(CC1)SC=C2 | C15H15ClN2OS
